US09416127B2
(S)-2-(4-Bromo-phenyl)-morpholine (36.3 g, 150 mmol) and N,N-diisopropylethylamine (23.3 g, 31.4 ml, 180 mmol) in THF (360 ml) were treated with di-tert-butyl dicarbonate (39.3 g, 180 mmol). The reaction mixture was stirred for 17 h at rt, concentrated in vacuo, diluted with ethyl acetate, washed with 1M citric acid (2×100 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The crude material was crystallized from hexane to afford 47.1 g (92%) (S)-tert-butyl 2-(4-bromophenyl)morpholine-4-carboxylate as an off-white solid. MS (ISP): 344.1 ([M+H]+).

reactant | (S)-2-(4-Bromo-phenyl)-morpholine | 150 mmol, 36.3 g | BrC1=CC=C(C=C1)[C@H]1CNCCO1 | C10H12BrNO
reactant | N,N-diisopropylethylamine | 180 mmol, 31.4 ml, 23.3 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 180 mmol, 39.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 360 ml | C1CCOC1 | C4H8O
product | (S)-tert-butyl 2-(4-bromophenyl)morpholine-4-carboxylate | 47.1 g, 92% | BrC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C15H20BrNO3
